US05623052
Dissolve 2-propyl-3-t-butyl-4-hydroxy-5-isopropylphenol (2.0 mol) and trimethyl orthoformate (0.3 L) in methanol (1.2 L) and degas. Place under a nitrogen atmosphere and cool to 3° C. and add concentrated sulfuric acid (5 mL). Add, by dropwise addition, methyl vinyl ketone (340 mL, 4.0 mol) and stir without cooling for 44 hours. Pour into aqueous sodium hydrogen carbonate and extract into ethyl ether. Dry (MgSO4) and evaporate the solvent in vacuo to give 2-methoxy-2-methyl-7-t-butyl-5-isopropyl-8-propyl-chroman-6-ol.

reactant | 2-propyl-3-t-butyl-4-hydroxy-5-isopropylphenol | 2.0 mol | C(CC)C1=C(C=C(C(=C1C(C)(C)C)O)C(C)C)O | C16H26O2
reactant | trimethyl orthoformate | 0.3 L | C(OC)(OC)OC | C4H10O3
reactant | methyl vinyl ketone | 4.0 mol, 340 mL | C(=C)C(=O)C | C4H6O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 1.2 L | CO | CH4O
product | 2-methoxy-2-methyl-7-t-butyl-5-isopropyl-8-propyl-chroman-6-ol | COC1(OC2=C(C(=C(C(=C2CC1)C(C)C)O)C(C)(C)C)CCC)C | C21H34O3
